US05364871
A solution of sodium borohydride (1.2 g) in water (25 ml) was added slowly to a solution of 2-(diaminomethyleneamino)-4-(5-methoxycarbonylpyridin-3-yl)thiazole (2.8 g) in methanol (70 ml) and tetrahydrofuran (70 ml) under refluxing for 20 minutes. The mixture was refluxed for 4 hours. The solvent was removed under reduced pressure and the residue was dissolved in water (100 ml). The mixture was extracted with a mixture of ethyl acetate (300 ml) and tetrahydrofuran (150 ml). The extract was dried with magnesium acetate and then evaporated to afford 2-(diaminomethyleneamino)-4-(5-hydroxymethylpyridin-3-yl)thiazole (1.14 g).

reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
reactant | 2-(diaminomethyleneamino)-4-(5-methoxycarbonylpyridin-3-yl)thiazole | 2.8 g | NC(N)=NC=1SC=C(N1)C=1C=NC=C(C1)C(=O)OC | C11H11N5O2S
solvent | water | 25 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-(5-hydroxymethylpyridin-3-yl)thiazole | 1.14 g | NC(N)=NC=1SC=C(N1)C=1C=NC=C(C1)CO | C10H11N5OS
